US06509361B1
Step 3: Preparation of 1-(2-Cyanoisonicotinyl)-1,3-butanedione:
To a solution of methyl 2-cyanoisonicotinate (20.0 g, 0.126 mol) in 250 mL THF was added acetone (30.6 mL, 0.42 mol). The solution was warmed to 35° C. and sodium methoxide (7.15 g, 0.132 mol) was added portionwise over 20 minutes. The mixture was heated at reflux for 16 hours. The solvent was removed in vacuo and the residue was dissolved in water, acidified to pH=6 with acetic acid. The aqueous phase was extracted with ethyl acetate and the organic layer was washed with brine, dried over magnesium sulfate, filtered and concentrated in vacuo to yield 13.0 g (58% yield) of product as a brown solid, which was used in next step without purification.

reactant | methyl 2-cyanoisonicotinate | 0.126 mol, 20.0 g | C(#N)C=1C=C(C(=O)OC)C=CN1 | C8H6N2O2
reactant | acetone | 0.42 mol, 30.6 mL | CC(=O)C | C3H6O
reactant | sodium methoxide | 0.132 mol, 7.15 g | C[O-].[Na+]
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | 1-(2-Cyanoisonicotinyl)-1,3-butanedione | 13.0 g, 58% yield | C(#N)C=1C=C(CC(CC(C)=O)=O)C=CN1 | C11H10N2O2
